US07598391B2
1,1-Dicyclohexyl-3-[5-(3-oxo-pyrazolidin-1-ylmethyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (42 mg. 0.125 mmol), 3-pyrazolidinone hydrochloride (23 mg, 0.188 mmol) and sodium triacetoxyborohydride (40 mg, 0.188 mmol) to afford 8 mg (16%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.125 mmol, 42 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | 3-pyrazolidinone hydrochloride | 0.188 mmol, 23 mg | Cl.N1NC(CC1)=O
reactant | sodium triacetoxyborohydride | 0.188 mmol, 40 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-[5-(3-oxo-pyrazolidin-1-ylmethyl)-thiazol-2-yl]-urea | 8 mg, 16% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1NC(CC1)=O)C1CCCCC1 | C20H31N5O2S
